### PR TITLE
Adds the AVL tree's toList/Any properties

### PR DESCRIPTION
**Pull request by mikedelorimier**
This adds
```
toList⁺ : Any P t → List.Any P (toList t)
toList⁻ : List.Any P (toList t) → Any P t
```
These use a relation that states that the AVL's `toList` and `toDiffList` are equivalent:
```
toList∼toDiffList : ∀ t → toList t ∼ toDiffList t
```

I also added lemmas to `Data.DifferenceList.Properties`:
```
toList-refl : xs ∼ ys → toList ys ∼ ys
toList-++ : xs₁ ∼ ys₁ → (ys₂ : DiffList A) → xs₁ List.++ toList ys₂ ≡ toList (ys₁ ++ ys₂)
```
These let the `DiffList` user reason about the correspond between List and DiffList. Lower-level reasoning that uses the definition of `DiffList` as a function, or the definitions of `toList` and `fromList` as appends is hidden in `toList-refl` and `toList-++`. It seemed helpful to hide this reasoning at the risk of adding lemmas that seem ad-hoc.

### CODE REVIEW

File: src/Data/DifferenceList/Properties.agda [hunk 1]
```diff
@@ -51,6 +51,18 @@ toList⁺ {xs = xs} {ys} xs∼ys = begin
   ys List.[]          ≡⟨⟩
   toList ys           ∎
 
+toList-refl : xs ∼ ys → toList ys ∼ ys
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: What happens to `xs` in this lemma? or is this a proxy for a predicate `ListLike` on `DiffList` saying that '`ys` is `ListLike` if there exists a real `List` `xs` with `xs ∼ ys`?

File: src/Data/DifferenceList/Properties.agda [hunk 2]
```diff
@@ -51,6 +51,18 @@ toList⁺ {xs = xs} {ys} xs∼ys = begin
...
+toList-refl {xs = xs} {ys} xs∼ys k =
+  subst (λ xs → fromList xs k ≡ ys k) (toList⁺ xs∼ys) (xs∼ys k)
+
+toList-++ : xs₁ ∼ ys₁ → (ys₂ : DiffList A) →
+            xs₁ List.++ toList ys₂ ≡ toList (ys₁ ++ ys₂)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: Yup. Good to see this homomorphism property. UPDATED Oh, it isn't *quite* a homomorphism (unless we think of a `List.toList` given by the identity...)

Downstream: Should the corresponding one for `fromList`, currently implicit in `++⁺` be made explicit? As with eg `Data.List.Effectful`, should we follow a naming convention in calling this, say, `fromList-++-homo`?

File: src/Data/DifferenceList/Properties.agda [hunk 3]
```diff
@@ -76,7 +88,7 @@ viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
   (ys₁ ++ ys₂) k               ∎
 
 ∷⁺ : (x : A) → xs ∼ ys → x List.∷ xs ∼ x ∷ ys
-∷⁺ {xs = xs} {ys} x xs~ys k = cong (x List.∷_) (xs~ys k)
+∷⁺ {xs = xs} {ys} x xs∼ys k = cong (x List.∷_) (xs∼ys k)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: What happened here? My browser can't seem to *render* the difference, but it evidently can *discern* one.

File: CHANGELOG.md [hunk 4]
```diff
@@ -350,6 +353,9 @@ Additions to existing modules
 
 * In `Data.DifferenceList.Properties`:
   ```agda
+  toList-refl : xs ∼ ys → toList ys ∼ ys
+  toList-++ : xs₁ ∼ ys₁ → (ys₂ : DiffList A) →
+              xs₁ List.++ toList ys₂ ≡ toList (ys₁ ++ ys₂)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Subscripts are a bit yuk... how about `xs`, `ys` and `zs`?
And/or if you wish to make a syntactic distinction between such generic names for *`List`s*, and something else for `DiffList`, why not `d` (or `ds` maybe?), followed by `e` and `f`?

The choice of `e` is unfortunate, but `f` at least reminds us that we are dealing with *functions*. So `f`, `g`, `h` might also work? 

Naming is tricky! But subscripts tend to make things worse, not better...

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+    l u : Key⁺
+    h : ℕ
+    t : Tree V l u h
+
+
+toList∼toDiffList : (t : Tree V l u h) →
+                    toList t ∼ toDiffList t
+toList∼toDiffList (leaf l<u) = []⁺
+toList∼toDiffList (node k l r bal) =
+  toList-refl (++-∷⁺ k (toList∼toDiffList l) (toList∼toDiffList r))
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: This proof made me wonder two things:
* whether `++-∷⁺` really earns its place in the `DifferenceList.Properties` API, when it is simply a function composition? (Fairbairn threshold)
* whether `toList-refl` is really doing what we want here either?

I think it could be simplified perhaps?

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+                      (subst (List.Any P) (sym toList-node) p))
+  where
+  path-++-∷ : List.Any P (toList l) ⊎ List.Any P (k List.∷ toList r) →
+              Any P (node k l r bal)
+  path-++-∷ (inj₁ p) = left (toList⁻ p)
+  path-++-∷ (inj₂ (List.here p)) = here p
+  path-++-∷ (inj₂ (List.there p)) = right (toList⁻ p)
+  toList-node : toList l List.++ k List.∷ toList r ≡
+                toList (node k l r bal)
+  toList-node = toList-++ (toList∼toDiffList l) (k ∷ toDiffList r)
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: What's the relationship between this lemma, and the RHS term used on L47?

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Thanks @mikedelorimier this looks good, but I think could be tightened up in a number of places.

File: CHANGELOG.md (hunk 4 above)
Comment (gallais) [reply CHANGELOG.md]: > something else for `DiffList`, why not `d` (or `ds` maybe?), followed by `e` and `f`?

Or `dxs`, `dys`, etc.

File: src/Data/DifferenceList/Properties.agda (hunk 1 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: Yes, `xs ~ ys` is a proxy for `ListLike ys`. Should I add `ListLike ys = Σ List (_∼ ys)`? This would be one step closer to defining the adjoint or inverse (now `List A ↔ ListLike A`, ignoring setoids).

File: src/Data/DifferenceList/Properties.agda (hunk 3 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: The homoglyphs are pretty annoying. I got the code for the tilde relation from the styleguide [here](https://github.com/agda/agda-stdlib/blob/master/doc/style-guide.md#variables-1). In emacs it's keystrokes `\~` not `~`. The rest of the tildes in `Properties` were already `\~` so I changed this one.

File: src/Data/DifferenceList/Properties.agda (hunk 2 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: Good to have a convention. I'll try the `Data.List.Effectful` naming.

File: CHANGELOG.md (hunk 4 above)
Comment (mikedelorimier) [reply CHANGELOG.md]: I like `xs`, `dxs` and `ys`, `dys` so the names indicate the correspondence.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 5 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: > whether ++-∷⁺ really earns its place

After using `++-∷⁺`, I don't think so either.

> whether toList-refl is really doing what we want here either?

I'm not sure what you're saying. It might be simpler to have `listLike : ListLike (toDiffList t)` instead of `toList∼toDiffList`. Then `toList-refl` would be unnecessary. Let's see if the uses of `toList∼toDiffList` don't become more complicated with `listLike` instead.

Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: I just removed `++-∷⁺`. Is this allowed, since it was in the previous commit?

File: src/Data/DifferenceList/Properties.agda (hunk 2 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: I kept `toList-++` the same because it's similar to `map f (xs ++ ys) ≡ map f xs ++ map f ys`.
I switched it to `ListLike` so it's more obviously a homomorphism.

File: src/Data/DifferenceList/Properties.agda (hunk 1 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: I added `ListLike ys = Σ (List A) (_∼ ys)` because it makes the `ToList` proofs clear. Now `ToList` has `listLike` instead of `toList∼toDiffList`. I think the proof of `listLike` is clear and doesn't have the mysterious `toList-refl`. The use of `listLike` uses `toList-++` (like before), but it's easier to read because the `toList-++` type is a simple homomorphism now.

Originally, I thought it would be more clear to expose the `xs` rather than hide it under a `Σ`. Apparently the new way works better because we construct the `xs` in `listLike` instead of letting it be the result of `DiffList.toList dxs`.

File: CHANGELOG.md (hunk 4 above)
Comment (mikedelorimier) [reply CHANGELOG.md]: Now everything uses (`xs`, `dxs` and `ys`, `dys`) instead of (`xs₁`, `ys₁` and `xs₂`, `ys₂`), including `Data.DifferenceList.Properties`. This does change implicit variable names.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 6 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: `toList-++` is the homomorphism where `toList` preserves `++`. Also, the `++-⁺` used at each recursive step in `listLike` (L47) is basically the homomorphism where `fromList` preserves `++`. It seems a little extra complicated to have to reverse the homomorphism, but it doesn't seem like we can simplify it only using `toList` and dropping `fromList`: We do have to show that a list, `xs` exists recursively so we do need the `fromList xs` in the recursion.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: As far as I'm concerned yes.

The `master` code base is in more flux than usual with breaking changes so within only *one week* there's no need to worry about what is still essentially a very local API change. 

Separately, because `Properties` was a new module, we don't even need to fix up the `CHANGELOG`...

... so all good I think.

Comment (jamesmckinna) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: And: I'm glad you agree with my revised take on your earlier contribution! If I'd thought about this later down the road, it might have been more fiddly to reverse the addition.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: Sounds good! 

I was really trying to get at whether they are in fact a common property which could/should itself be lifted out as a lemma...

File: src/Data/DifferenceList/Properties.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Properties.agda]: OK, I'll take a closer look.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Relation.Binary.Bundles using (StrictTotalOrder)
+
+module Data.Tree.AVL.Indexed.Relation.Unary.Any.Properties.ToList
+  {a ℓ₁ ℓ₂} (sto : StrictTotalOrder a ℓ₁ ℓ₂)
+  where
+
+open import Data.DifferenceList.Properties using ()
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: You have the actual import from `Properties` on L17-L18, so this should just be deleted.

File: CHANGELOG.md [hunk 8]
```diff
@@ -350,7 +353,9 @@ Additions to existing modules
 
 * In `Data.DifferenceList.Properties`:
   ```agda
-  viaList⁺ : (f : List A → List B) → xs ∼ ys → f xs ∼ viaList f ys
+  toList-++ : ListLike dxs → (dys : DiffList A) →
```
Comment (jamesmckinna) [inline CHANGELOG.md:357]: So my original thought was that this lemma should really be called `toList-++-homo`, especially after this latest round of refactoring, but I wouldn't insist on it?

The preconditions complicate the 'vanilla' homomorphism property on the next line, ... hmmm. Not sure!

File: src/Data/DifferenceList/Properties.agda [hunk 9]
```diff
@@ -44,18 +48,27 @@ xs ∼ ys = fromList xs ≗ ys
 toList∘fromList : (xs : List A) → toList (fromList xs) ≡ xs
 toList∘fromList = ++-identityʳ
 
-toList⁺ : xs ∼ ys → xs ≡ toList ys
-toList⁺ {xs = xs} {ys} xs∼ys = begin
+toList⁺ : xs ∼ dxs → xs ≡ toList dxs
+toList⁺ {xs = xs} {dxs} x∼ = begin
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: Maybe it's 'too much ink' to spend on the hypothesis, but I see no vice, and even some virtue, in:
```suggestion
toList⁺ {xs = xs} {dxs} xs∼dxs = begin
```
and obviously propagating the name...

File: src/Data/DifferenceList/Properties.agda [hunk 10]
```diff
@@ -44,18 +48,27 @@ xs ∼ ys = fromList xs ≗ ys
...
-  toList ys           ∎
-
-viaList⁺ : (f : List A → List B) → xs ∼ ys → f xs ∼ viaList f ys
-viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
-  fromList (f xs)          k ≡⟨ cong (flip fromList _ ∘′ f) (toList⁺ xs∼ys) ⟩
-  fromList (f (toList ys)) k ≡⟨⟩
-  viaList f ys             k ∎
+  xs List.++ List.[]  ≡⟨ x∼ List.[] ⟩
+  dxs List.[]         ≡⟨⟩
+  toList dxs          ∎
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: But here, I'm going to double-down on my comments on the previous PR: to maintain the `DiffList` API, rather than expose the implementations:
```suggestion
  toList (fromList xs)  ≡⟨ xs∼dxs List.[] ⟩
  toList dxs          ∎
```
with the first line of the proof L53 not passing down to `List.Properties`, but to the lemma you've already proved:
```agda
  xs                   ≡⟨ toList∘fromList xs ⟨
  toList (fromList xs) ...
```

File: src/Data/DifferenceList/Properties.agda [hunk 11]
```diff
@@ -66,24 +79,19 @@ viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
...
+  xs List.++ (ys List.++ k)  ≡⟨ cong (xs List.++_) (y∼ k) ⟩
+  xs List.++ dys k           ≡⟨ x∼ (dys k) ⟩
+  dxs (dys k)                ≡⟨⟩
+  (dxs ++ dys) k             ∎
 
-++-∷⁺ : (x : A) → xs₁ ∼ ys₁ → xs₂ ∼ ys₂ →
-        xs₁ List.++ x List.∷ xs₂ ∼ ys₁ ++ x ∷ ys₂
-++-∷⁺ x xs₁∼ys₁ xs₂∼ys₂ = ++⁺ xs₁∼ys₁ (∷⁺ x xs₂∼ys₂)
+∷⁺ : (x : A) → xs ∼ dxs → x List.∷ xs ∼ x ∷ dxs
+∷⁺ x x∼ k = cong (x List.∷_) (x∼ k)
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]:
```suggestion
∷⁺ x = ++⁺ [ x ]⁺
```
Clearly, the eta-contraction involved is doing a lot of work, but it makes clear that just as `_∷_` is composed from `_++_` and `[_]` (so too is `_∷ʳ_` below!), the associated proof is the composition of the associated proofs...

File: src/Data/DifferenceList/Properties.agda [hunk 12]
```diff
@@ -66,24 +79,19 @@ viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
...
 
-∷ʳ⁺ : (x : A) → xs ∼ ys → xs List.∷ʳ x ∼ ys ∷ʳ x
-∷ʳ⁺ {xs = xs} {ys} x xs∼ys k = ++⁺ xs∼ys [ x ]⁺ k
+∷ʳ⁺ : (x : A) → xs ∼ dxs → xs List.∷ʳ x ∼ dxs ∷ʳ x
+∷ʳ⁺ x x∼ k = ++⁺ x∼ [ x ]⁺ k
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: As above:
```suggestion
∷ʳ⁺ x xs∼dxs = ++⁺ xs∼dxs [ x ]⁺
```

File: src/Data/DifferenceList/Properties.agda [hunk 13]
```diff
@@ -66,24 +79,19 @@ viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
...
-
-∷⁺ : (x : A) → xs ∼ ys → x List.∷ xs ∼ x ∷ ys
-∷⁺ {xs = xs} {ys} x xs~ys k = cong (x List.∷_) (xs~ys k)
+++⁺ : xs ∼ dxs → ys ∼ dys → xs List.++ ys ∼ dxs ++ dys
+++⁺ {xs = xs} {dxs = dxs} {ys = ys} {dys = dys} x∼ y∼ k = begin
+  (xs List.++ ys) List.++ k  ≡⟨ ++-assoc xs ys k ⟩
+  xs List.++ (ys List.++ k)  ≡⟨ cong (xs List.++_) (y∼ k) ⟩
+  xs List.++ dys k           ≡⟨ x∼ (dys k) ⟩
+  dxs (dys k)                ≡⟨⟩
+  (dxs ++ dys) k             ∎
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: Suggest the following refactoring:
* first make the use of `assoc` explicit as a homomorphism lemma
```agda
fromList-++-homo : (xs ys : List A) →
                   fromList (xs List.++ ys) ≗ fromList xs ++ fromList ys
fromList-++-homo = ++-assoc
```
* then, use that encapsulated `List` property, *and* the `DiffList` API again via `fromList`, as follows:
```suggestion
++⁺ : xs ∼ dxs → ys ∼ dys → xs List.++ ys ∼ dxs ++ dys
++⁺ {xs = xs} {dxs = dxs} {ys = ys} {dys = dys} xs∼dxs ys∼ dys k = begin
  fromList (xs List.++ ys) k     ≡⟨ fromList-++-homo xs ys k ⟩
  (fromlist xs ++ fromList ys) k ≡⟨⟩
  fromList xs (fromList ys k)    ≡⟨ cong (fromList xs) (ys∼dys k) ⟩
  fromList xs (dys k)            ≡⟨ xs∼dxs (dys k) ⟩
  dxs (dys k)                    ≡⟨⟩
  (dxs ++ dys) k                 ∎
```
The proof is *definitionally* equivalent to your version, but uses only `DiffList` abstractions beyond the first line, which obviously needs `List.++`...

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 14]
```diff
@@ -0,0 +1,77 @@
...
+  subst (List.Any P) toList-node (path-++-∷ p)
+  where
+  path-++-∷ : Any P (node k l r bal) →
+              List.Any P (toList l List.++ k List.∷ toList r)
+  path-++-∷ (here p) = List.++⁺ʳ (toList l) (List.here p)
+  path-++-∷ (left p) = List.++⁺ˡ (toList⁺ p)
+  path-++-∷ (right p) = List.++⁺ʳ (toList l) (List.there (toList⁺ p))
+  toList-node : toList l List.++ k List.∷ toList r ≡
+                toList (node k l r bal)
+  toList-node = toList-++ (listLike l) (k ∷ toDiffList r)
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: I'm going to double-down (again): this lemma is now used in this LHS -> RHS direction here, and in the RHS -> LHS symmetric form in L75-L77 below.

DRY says: make this a lemma, and apply it twice!?

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 15]
```diff
@@ -0,0 +1,77 @@
...
+  let (ls , l∼) = listLike l
+      (rs , r∼) = listLike r
+  in ls List.++ k List.∷ rs ,
+     (++⁺ l∼ (∷⁺ k r∼))
+
+toList⁺ : Any P t → List.Any P (toList t)
+toList⁺ {P = P} {t = node k l r bal} p =
+  subst (List.Any P) toList-node (path-++-∷ p)
+  where
+  path-++-∷ : Any P (node k l r bal) →
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: Could this lemma be called `node⁻`? And lifted out as a lemma in its own right?

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 16]
```diff
@@ -0,0 +1,77 @@
...
+  toList-node : toList l List.++ k List.∷ toList r ≡
+                toList (node k l r bal)
+  toList-node = toList-++ (listLike l) (k ∷ toDiffList r)
+
+toList⁻ : List.Any P (toList t) → Any P t
+toList⁻ {P = P} {t = node k l r bal} p =
+  path-++-∷ (List.++⁻ (toList l)
+                      (subst (List.Any P) (sym toList-node) p))
+  where
+  path-++-∷ : List.Any P (toList l) ⊎ List.Any P (k List.∷ toList r) →
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: Ditto.
Could this lemma be called `node⁺`? And lifted out as a lemma in its own right?

**Review by jamesmckinna — APPROVED** [review]
Lots more nitpicking... sorry for that, but I think each suggestion is a (potential!?) improvement. So I won't *insist* on them, but...

File: src/Data/DifferenceList/Properties.agda (hunk 9 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: changed to `xs∼dxs` for this and other similar variable names in `Properties` and `ToList`.

File: src/Data/DifferenceList/Properties.agda (hunk 10 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done (changed `toList⁺`)

File: src/Data/DifferenceList/Properties.agda (hunk 13 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done. Yes this is more clear now.

File: src/Data/DifferenceList/Properties.agda (hunk 12 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 7 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: whoops

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 15 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: Lifted to lemma. Called `toList⁺-node`, because `node⁻` is already a pattern name (for 3 nodes that are).

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 14 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: done. renamed to `++≡node` because keeping `toList-node` seemed too similar to the lemmas `toList⁺-node` and ``toList⁻-node`.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 16 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: done (renamed to `toList⁻-node`)

File: CHANGELOG.md (hunk 8 above)
Comment (mikedelorimier) [reply CHANGELOG.md:357]: done. Yeah, with the preconditions `fromList-++-homo` and `toList-++-homo` aren't perfectly symmetric. But I think we would wrap these two to when defining the `Inverse or `Adjoint` (where the right hand side uses `ListLike`)

File: src/Data/DifferenceList/Properties.agda (hunk 11 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: done

**Comment by mikedelorimier** [comment]
> Lots more nitpicking... sorry for that, but I think each suggestion is a (potential!?) improvement. So I won't _insist_ on them, but...

All your comments made sense to me, and I updated the code accordingly.

**Comment by jamesmckinna** [comment]
All looks good, let's see if we can get a second review! @gallais for example?

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 17]
```diff
@@ -0,0 +1,89 @@
...
+    P : Pred (K& V) p
+    l u : Key⁺
+    hˡ hʳ h : ℕ
+    t : Tree V l u h
+
+
+listLike : (t : Tree V l u h) → ListLike (toDiffList t)
+listLike (leaf l<u) = List.[] , []⁺
+listLike (node k l r bal) =
+  let (ls , ls∼dls) = listLike l
```
Comment (JacquesCarette) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: given that `let` inlines (and the pattern-matching gets resolved using weird names), perhaps irrefutable `with` instead? Or even a local `where` clause?

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Looks good to me! Just a single nit.

File: src/Data/DifferenceList/Properties.agda [hunk 18]
```diff
@@ -44,18 +48,30 @@ xs ∼ ys = fromList xs ≗ ys
...
+toList⁺ {xs = xs} {dxs} xs∼dxs = begin
+  xs                    ≡⟨ toList∘fromList xs ⟨
+  toList (fromList xs)  ≡⟨ xs∼dxs List.[] ⟩
+  toList dxs            ∎
+
+fromList-++-homo : (xs ys : List A) →
+                   fromList (xs List.++ ys) ≗ fromList xs ++ fromList ys
+fromList-++-homo = ++-assoc
+
+toList-++-homo : ListLike dxs → (dys : DiffList A) →
```
Comment (gallais) [inline src/Data/DifferenceList/Properties.agda]: I don't think we tend to use `homo` (or `commute`) anymore. Cf. for a discussion on naming conventions about `f`  going "through" `op`: https://github.com/agda/agda-stdlib/issues/509

**Review by gallais — CHANGES_REQUESTED** [review]

File: src/Data/DifferenceList/Properties.agda (hunk 18 above)
Comment (mikedelorimier) [reply src/Data/DifferenceList/Properties.agda]: OK, I changed these back to `fromList-++` and `toList-++`.
I think @jamesmckinna preferred it with `-homo`, but then in [#509](https://github.com/agda/agda-stdlib/issues/509) yall preferred without `-commute`.

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 17 above)
Comment (mikedelorimier) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda]: changed to irrefutable `with`

File: src/Data/DifferenceList/Properties.agda (hunk 18 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Properties.agda]: Absent any formalised explicit policy on naming other than the appeal to consistency in #509 and related PRs, I'll give way on this one... I certainly don't want to obstruct merging the content of this PR!

File: src/Data/DifferenceList/Properties.agda [hunk 19]
```diff
@@ -10,12 +10,13 @@ module Data.DifferenceList.Properties where
...
-open import Data.List as List using (List)
+open import Data.List.Base as List using (List)
 open import Data.List.Properties using (++-assoc; ++-identityʳ)
-open import Function using (_∘′_; id; flip)
+open import Data.Product.Base using (Σ; _,_)
+open import Function.Base using (_∘′_; id; flip)
 open import Level using (Level)
 open import Relation.Binary.PropositionalEquality
-  using (_≡_; refl; cong; _≗_; module ≡-Reasoning)
+  using (_≡_; refl; subst; cong; _≗_; module ≡-Reasoning)
```
Comment (gallais) [inline src/Data/DifferenceList/Properties.agda]: Are you actually using `subst` in this module? The diff does not seem to mention it.

**Review by gallais — COMMENTED** [review]
One last request (we should use the option to flag useless imports in the CI)

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda [hunk 20]
```diff
@@ -0,0 +1,88 @@
...
+toList⁻-node : {kv : K& V} →
+               {lk : Tree V l [ kv .key ] hˡ} →
+               {ku : Tree V [ kv .key ] u hʳ} →
+               {bal : hˡ ∼ hʳ ⊔ h} →
+               List.Any P (toList lk) ⊎ List.Any P (kv List.∷ toList ku) →
+               Any P (node kv lk ku bal)
+toList⁻ {P = P} {t = node kv lk ku bal} p =
+  toList⁻-node
+    (List.++⁻ (toList lk)
+      (subst (List.Any P) (sym (++≡node kv lk ku bal)) p))
```
Comment (jamesmckinna) [inline src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda:85]: @gallais Here's the use of `subst`... might it be eliminable?

File: src/Data/DifferenceList/Properties.agda (hunk 19 above)
Comment (jamesmckinna) [reply src/Data/DifferenceList/Properties.agda]: Looks like not!

File: src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda (hunk 20 above)
Comment (gallais) [reply src/Data/Tree/AVL/Indexed/Relation/Unary/Any/Properties/ToList.agda:85]: It's in a different file. I don't mind it being used, I'm just advocating cleaning up
the import list in the one module that does not use it.

**Review by JacquesCarette — APPROVED** [review]

**Review by gallais — APPROVED** [review]

**Comment by jamesmckinna** [comment]
Thanks very much @mikedelorimier for another nice contribution, and for your responsiveness to multiple threads of review/critique!
[We had a maintainers' meeting today, and agreed to merge after the unused import of `subst` was removed, and duly did so.]
